US07544803B2
6-(4-Isopropyl-piperazin-1-yl)-naphthalene-2-carboxylic acid quinolin-7-ylamide.
This material was prepared analogous to the procedure described for Example 33. 6-Bromo-naphthalene-2-carboxylic acid quinolin-7-ylamide, Example 32(b), (116 mg, 0.31 mmol) reacted with 1-isopropylpiperazine (315 mg, 2.46 mmol, Aldrich) to give the title compound as a yellow amorphous solid. MS (ESI, pos. ion) m/z: 426 (M+1).

reactant | 6-Bromo-naphthalene-2-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C20H13BrN2O
reactant | 1-isopropylpiperazine | 2.46 mmol, 315 mg | C(C)(C)N1CCNCC1 | C7H16N2
product | 6-(4-Isopropyl-piperazin-1-yl)-naphthalene-2-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)N1CCN(CC1)C(C)C | C27H28N4O
